2184-06-15 09:55:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Respiratory support
   Physical Examination
   Labs / Radiology
        [image002.jpg]
   WBC
   Hct
   Plt
   Cr
   TropT
   TCO2
   Glucose
   Imaging:
   Microbiology:
   ECG:
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2184-06-16 07:26:00 Physician Resident Progress Note
Chief Complaint: 85F with smoldering myeloma, dementia, atrial
   fibrillation, with confusion and fevers, CXR concerning for pna
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2184-6-15**] 04:37 PM
   -Neuro: MRI unremarkable, rec EEG and LP, unable to do LP last night,
   on abx for meningitis. TTE and EEG not done yet. Likely delirium [**3-13**]
   infection on top of b/l dementia causing aphasia per neuro.
   Allergies:
   Codeine
   Nausea/Vomiting
   Pamidronate Disodium
   Renal Toxicity;
   Primidone
   Unknown;
   Dapsone
   Anemia;
   Last dose of Antibiotics:
   Vancomycin - [**2184-6-15**] 02:00 PM
   Ceftriaxone - [**2184-6-16**] 12:00 AM
   Ampicillin - [**2184-6-16**] 06:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-6-16**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.4
C (97.5
   HR: 69 (61 - 87) bpm
   BP: 149/96(110) {105/43(45) - 187/96(115)} mmHg
   RR: 15 (15 - 24) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 60 Inch
             Total In:
                                                                  3,001 mL
                                                                    323 mL
   PO:
                                                                    720 mL
             TF:
   IVF:
                                                                    531 mL
                                                                    323 mL
   Blood products:
   Total out:
                                                                  2,895 mL
                                                                    410 mL
   Urine:
                                                                  1,545 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    106 mL
                                                                    -87 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: No(t) Normal), (S2: No(t) Normal), No(t) S3, No(t)
   S4, No(t) Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : on
   left, Crackles : on right)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x2, Movement: Not assessed, Tone: Not assessed,
   tremulous upper extremities b/l,
   Labs / Radiology
   174 K/uL
   10.8 g/dL
   86 mg/dL
   1.7 mg/dL
   23 mEq/L
   4.4 mEq/L
   19 mg/dL
   113 mEq/L
   146 mEq/L
   32.2 %
   5.9 K/uL
        [image002.jpg]
                             [**2184-6-15**]  04:58 AM
                             [**2184-6-15**]  05:05 PM
                             [**2184-6-16**]  04:03 AM
   WBC
   5.9
   5.9
   5.9
   Hct
   32.1
   33.4
   32.2
   Plt
   193
   185
   174
   Cr
   1.8
   1.7
   1.7
   Glucose
   90
   90
   86
   Other labs: PT / PTT / INR:18.3/29.6/1.7, Amylase / Lipase:94/49,
   Differential-Neuts:58.6 %, Lymph:31.8 %, Mono:8.9 %, Eos:0.6 %,
   Ca++:9.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Imaging: MRI/MRA: Patent arteries and no infarction.
   Microbiology: All culture data NGTD, negative.  RPR negative,
   Assessment and Plan
   85F with smoldering myeloma, dementia, atrial fibrillation, with
   confusion and fevers, CXR concerning for pna
   .
   #Aphasia/Altered Mental Status: Symptoms c/w prior TIA
s.  Awaiting
   final read on MRI/MRA.  Suspect recrudescence of prior infarcts or
   areas of relative ischemia in setting of metabolic disturbances,
   infectious process.  ? CNS infection.
   -          LP, EEG today
   -          f/u final read on MRI
   -          Continue broad spectrum Abx with Vanc/Ceftriaxone/Ampicillin
   at this time
   -          Hold acyclovir at this time.
   .
   # fevers: acuity and lack of other apparent source besides opacity on
   CXR point to pna, but lack of lung findings on physical exam raise
   concern for occult infection. f/u micro, send stool for C diff.
   levofloxacin for infiltrate.
   - Culture data negative, suspect CNS source given aphasia.  Will
   proceed with LP and TTE today as previously planned.
   # abnml cxr: may be pna, as above, but radiographic appearance also
   concerning for CHF, although pt appears euvolemic to dry on exam. will
   check BNP. will attempt to obtain records from recent hospitalization
   at [**Hospital1 183**] in am.
   - BNP elevated.
   # atrial fibrillation:
   - rate control with home beta blocker for target HR <100
   - continue coumadin for INR goal 2.0-3.0
   # Kidney Function: Patient is at baseline renal function currently so
   no Acute renal failure as previously suspected.
   # Code Status: pt is DNR/DNI and carries Mass. DNR form with her,
   signed by her [**2184-5-5**].
   # Communication: with patient and family at bedside: next of [**Doctor First Name **] is
   [**First Name8 (NamePattern2) **] [**Known lastname 2533**], daughter: [**Telephone/Fax (1) 682**]. PCP is [**First Name8 (NamePattern2) 2534**] [**Last Name (NamePattern1) 2535**].
   #Access: PIV
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2184-6-15**] 08:30 AM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: Protonix
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2184-06-16 12:21:00 Physician Attending Progress Note
Chief Complaint: afib with [**Last Name (LF) **], [**First Name3 (LF) **]
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2184-6-15**] 04:37 PM - neg for acute
   CVA. Mental status and fluent speech dramatically improved this AM.
   Allergies:
   Codeine
   Nausea/Vomiting
   Pamidronate Disodium
   Renal Toxicity;
   Primidone
   Unknown;
   Dapsone
   Anemia;
   Last dose of Antibiotics:
   Vancomycin - [**2184-6-15**] 02:00 PM
   Ceftriaxone - [**2184-6-16**] 12:00 AM
   Ampicillin - [**2184-6-16**] 06:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-6-16**] 12:11 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.1
C (97
   HR: 83 (61 - 93) bpm
   BP: 179/89(106) {108/43(61) - 187/116(127)} mmHg
   RR: 17 (10 - 24) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 60 Inch
             Total In:
                                                                  3,001 mL
                                                                    730 mL
   PO:
                                                                    720 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    531 mL
                                                                    370 mL
   Blood products:
   Total out:
                                                                  2,895 mL
                                                                    700 mL
   Urine:
                                                                  1,545 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    106 mL
                                                                     30 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   Gen: alert sitting up in bed, NAD
   CV: orreg irreg
   Chest: CTA
   Abd: soft NT
   Ext: 1+ edema
   Neuo: conversant fluent speech moving all extremities, following
   commands and repeating 3 words
   Labs / Radiology
   10.8 g/dL
   174 K/uL
   86 mg/dL
   1.7 mg/dL
   23 mEq/L
   4.4 mEq/L
   19 mg/dL
   113 mEq/L
   146 mEq/L
   32.2 %
   5.9 K/uL
        [image002.jpg]
                             [**2184-6-15**]  04:58 AM
                             [**2184-6-15**]  05:05 PM
                             [**2184-6-16**]  04:03 AM
   WBC
   5.9
   5.9
   5.9
   Hct
   32.1
   33.4
   32.2
   Plt
   193
   185
   174
   Cr
   1.8
   1.7
   1.7
   Glucose
   90
   90
   86
   Other labs: PT / PTT / INR:18.3/29.6/1.7, Amylase / Lipase:94/49,
   Differential-Neuts:58.6 %, Lymph:31.8 %, Mono:8.9 %, Eos:0.6 %,
   Ca++:9.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Imaging: MRI: old meningioma, no acute CVA or flow limiting stenoses
   Assessment and Plan
   1.       Aphasia: completely resolved, still concerning for [**Year (4 digits) **],
   interesting that her BP are running in 170-180 range and her mental
   status is better
 supporting possible low flow state yesterdya and a
   [**Year (4 digits) **]- let her autoreg but is sustained BP higher than 180 would start a
   low dose titratable medication, check  carotis ultrasound
   2.       Fevers: etiology unclear, [**Name2 (NI) **] clturesd, one outstanding issue
   is LP as we had empirically covered would need to give FFP and doubt is
   true source since she improved so dramatically makes bacterial meming
   even on ABX less likely.
   Would favor dc all abx and defer LP
 but will discuss with Neurology
   and pts family
   3.       Arf: at baseline, myeloma
   ICU Care
   Nutrition: po
   Glycemic Control:
   Lines:
   20 Gauge - [**2184-6-15**] 08:30 AM
   Prophylaxis:
   DVT: was on coumadin, restart after LP decision
   Stress ulcer: PPI
   Communication:  with daughter
   [**Name (NI) 66**] status: DNR (do not resuscitate)
   Disposition :Transfer to floor
   Total time spent: 40

2184-06-17 07:12:00 Physician Resident Progress Note
Chief Complaint: Confusion, aphasia
   24 Hour Events:
 EEG - At [**2184-6-16**] 10:00 AM: Not yet read
 ULTRASOUND - At [**2184-6-16**] 03:30 PM: Carotid u/s performed, not yet
   read
 LUMBAR PUNCTURE - At [**2184-6-16**] 07:24 PM: with 1WBC, 2RBCs, glucose
   59, protein 78
   -Hypertensive to the 190s, captopril 50mg PO x1, started captopril 37.5
   TID for BP control, goal SBP 140-160
   History obtained from Patient
   Allergies:
   History obtained from PatientCodeine
   Nausea/Vomiting
   Pamidronate Disodium
   Renal Toxicity;
   Primidone
   Unknown;
   Dapsone
   Anemia;
   Last dose of Antibiotics:
   Vancomycin - [**2184-6-15**] 02:00 PM
   Ceftriaxone - [**2184-6-17**] 12:00 AM
   Ampicillin - [**2184-6-17**] 06:01 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2184-6-17**] 06:00 AM
   Other medications:
   Captopril 37.5mg TID
   SC heparin
   Mirtazipine 7.5mg qhs
   Pantoprazole 40mg qday
   atorvastatin 40 qday
   metoprolol 50 [**Hospital1 **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-6-17**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.3
C (97.3
   HR: 72 (69 - 98) bpm
   BP: 176/74(82) {138/48(69) - 199/116(127)} mmHg
   RR: 17 (10 - 31) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 60 Inch
             Total In:
                                                                  2,203 mL
                                                                    319 mL
   PO:
                                                                    920 mL
             TF:
   IVF:
                                                                    740 mL
                                                                    319 mL
   Blood products:
                                                                    543 mL
   Total out:
                                                                  2,255 mL
                                                                    585 mL
   Urine:
                                                                  2,255 mL
                                                                    585 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -52 mL
                                                                   -266 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic), Irregularly irregular
   rhythm, normal rate
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : Right lung, increasing at the base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place and time, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   190 K/uL
   10.3 g/dL
   93 mg/dL
   1.8 mg/dL
   23 mEq/L
   3.7 mEq/L
   19 mg/dL
   111 mEq/L
   145 mEq/L
   31.3 %
   5.7 K/uL
         [image002.jpg]
                             [**2184-6-15**]  04:58 AM
                             [**2184-6-15**]  05:05 PM
                             [**2184-6-16**]  04:03 AM
                             [**2184-6-17**]  04:54 AM
   WBC
   5.9
   5.9
   5.9
   5.7
   Hct
   32.1
   33.4
   32.2
   31.3
   Plt
   193
   185
   174
   190
   Cr
   1.8
   1.7
   1.7
   1.8
   Glucose
   90
   90
   86
   93
   Other labs: PT / PTT / INR:16.0/32.7/1.4, Amylase / Lipase:94/49,
   Differential-Neuts:58.6 %, Lymph:31.8 %, Mono:8.9 %, Eos:0.6 %,
   Ca++:8.8 mg/dL, Mg++:1.8 mg/dL, PO4:2.5 mg/dL
   Imaging: MRI: Prelim report:
   1. No evidence of acute infarction.
   2. A 1.5 x 1.0 cm focal lesion, corresponding to abnormality noted on
   the CT, it could represent___. This is located in the falx and vertex.
   However, assessment is limited due to lack of IV contrast.
   3. Patent major intracranial arteries with no focal flow-limiting
   stenosis,
   occlusion or aneurysm more than 3 mm within the resolution of MR
   angiogram.
   Limited view of the _____ reformations of the posterior circulation.
   EEG and carotid U/S pending
   Microbiology: Urine: negative for legionella, culture negative
   Blood cx: NGTD
   Cdiff: negative x3
   CSF: no PMN/organisms, culture NGTD
   Assessment and Plan
   85F with smoldering myeloma, dementia, atrial fibrillation, with
   confusion and fevers, CXR concerning for pna
   #Aphasia/Altered Mental Status: Symptoms c/w prior TIA
s.  Awaiting
   final read on MRI/MRA.  Suspect recrudescence of prior infarcts or
   areas of relative ischemia in setting of metabolic disturbances.  LP is
   not consistent with meningitis.
   -Await final read of EEG, MRI, final culture results of LP
   -Can likely d/c meningitis coverage at this time, given low suspicion
   for meningitis
   # fevers: CXR concerning for opacities, exam c/w crackles on right
   lung.  No other source for fever at this time.
   -PA and lateral for better imaging
   -consider a course for CAP
   # Hypertension: Elevated to 190 systolic, supportive of TIA.  On
   metoprolol and lisinopril at home.
   -Continue home metoprolol and captopril titration.  will convert to
   lisinopril.
   # atrial fibrillation:
   - rate control with home beta blocker for target HR <100
   - continue coumadin for INR goal 2.0-3.0
   # Kidney Function: Patient is at baseline renal function currently so
   no Acute renal failure as previously suspected.
   ICU Care
   Nutrition:
   Comments: regular diet as tolerated
   Glycemic Control:  Comments: Not needed
   Lines:
   20 Gauge - [**2184-6-15**] 08:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:Transfer to floor

2184-06-17 11:53:00 Physician Attending Progress Note
Chief Complaint: altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EEG - At [**2184-6-16**] 10:00 AM
 ULTRASOUND - At [**2184-6-16**] 03:30 PM no sig stenosis
 LUMBAR PUNCTURE - At [**2184-6-16**] 07:24 PM - negative
   Allergies:
   Codeine
   Nausea/Vomiting
   Pamidronate Disodium
   Renal Toxicity;
   Primidone
   Unknown;
   Dapsone
   Anemia;
   Last dose of Antibiotics:
   Vancomycin - [**2184-6-15**] 02:00 PM
   Ceftriaxone - [**2184-6-17**] 12:00 AM
   Ampicillin - [**2184-6-17**] 06:01 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2184-6-17**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-6-17**] 11:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.3
C (97.4
   HR: 65 (65 - 98) bpm
   BP: 143/49(74) {138/48(69) - 199/111(127)} mmHg
   RR: 13 (13 - 31) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 60 Inch
             Total In:
                                                                  2,203 mL
                                                                    848 mL
   PO:
                                                                    920 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    740 mL
                                                                    368 mL
   Blood products:
                                                                    543 mL
   Total out:
                                                                  2,255 mL
                                                                    875 mL
   Urine:
                                                                  2,255 mL
                                                                    875 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -52 mL
                                                                    -27 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : right gretare than
   left)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.3 g/dL
   190 K/uL
   93 mg/dL
   1.8 mg/dL
   23 mEq/L
   3.7 mEq/L
   19 mg/dL
   111 mEq/L
   145 mEq/L
   31.3 %
   5.7 K/uL
        [image002.jpg]
                             [**2184-6-15**]  04:58 AM
                             [**2184-6-15**]  05:05 PM
                             [**2184-6-16**]  04:03 AM
                             [**2184-6-17**]  04:54 AM
   WBC
   5.9
   5.9
   5.9
   5.7
   Hct
   32.1
   33.4
   32.2
   31.3
   Plt
   193
   185
   174
   190
   Cr
   1.8
   1.7
   1.7
   1.8
   Glucose
   90
   90
   86
   93
   Other labs: PT / PTT / INR:16.0/32.7/1.4, Amylase / Lipase:94/49,
   Differential-Neuts:58.6 %, Lymph:31.8 %, Mono:8.9 %, Eos:0.6 %,
   Ca++:8.8 mg/dL, Mg++:1.8 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   1.       Aphasia: completely resolved, still concerning for TIA,
   interesting that her BP are running in 170-180 range and her mental
   status is better
 supporting possible low flow state yesterdya and a
   TIA- let her autoreg but is sustained BP higher than 180 would start a
   low dose titratable medication, check  carotis ultrasound
   2.       Fevers: etiology unclear, [**Name2 (NI) **] clturesd, one outstanding issue
   is LP as we had empirically covered would need to give FFP and doubt is
   true source since she improved so dramatically makes bacterial meming
   even on ABX less likely.
   Would favor dc all abx and defer LP
 but will discuss with Neurology
   and pts family
   3.       Arf: at baseline, myeloma
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2184-6-17**] 08:12 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :Transfer to floor
   Total time spent: 35 minutes